US05444074
(d) 3-t-Butyl-5-chlorobenzyl bromide
3-t-Butyl-5-chlorotoluene (5.7 g) was dissolved in carbon tetrachloride (80 ml) and N-bromosuccinimide (5.56 g) was added followed by benzoyl peroxide (750 mg). This mixture was heated at reflux for 6h. The mixture was cooled, filtered through celite and the filtrate was concentrated in vacuo. The residue was purified by chromatography on silica using hexane as eluant. This afforded the title compound as a colourless liquid. 1H NMR (360 MHz, CDCl3) δ1.31 (9H, s, (CH3)3), 4.42 (2H, s, CH2), 7.20 (1H, t, J=1.5 Hz, ArH), 7.26 (1H, t, J=1.5 Hz, ArH), 7.28 (1H, t, J=1.5 Hz, ArH).

reactant | 3-t-Butyl-5-chlorotoluene | 5.7 g | C(C)(C)(C)C=1C=C(C=C(C1)Cl)C | C11H15Cl
reactant | N-bromosuccinimide | 5.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 750 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-t-Butyl-5-chlorobenzyl bromide | C(C)(C)(C)C=1C=C(CBr)C=C(C1)Cl | C11H14BrCl
